US07071340B2
21 g (7 equivalents) of AD-mix-α and 1.31 g (13.8 mmol) of methanesulfonamide dissolved in 75 ml of a 1/1 tert-butyl alcohol/water mixture are added at ambient temperature to 3 g (13.8 mmol) of methyl 3-methylene-2,3-dihydro-1-benzoxepin-7-carboxylate, prepared according to example 35, in suspension in 20 ml of a 1/1 tert-butyl alcohol/water mixture. The reaction medium is stirred for 4 days and is then treated with 2.6 g of sodium disulfite. The medium is reextracted with dichloromethane and the organic phases are washed with brine. After evaporating, the crude reaction product is purified by chromatography on silica gel (ethyl acetate/heptane 50/50) to give 3.2 g (100%) of methyl 3-hydroxy-3-(hydroxymethyl)-2,3-dihydro-1-benzoxepin-7-carboxylate in the form of a colorless honey; 1H NMR (300 MHz, CDCl3): 7.88 (d, J=2.4 Hz, 1H), 7.81 (dd, J=2.4 Hz and 8.4 Hz, 1H), 6.98 (d, J=8.4 Hz, 1H), 6.37 (d, J=12 Hz, 1H), 5.88 (d, J=12 Hz, 1H), 4.24 (dd, J=1.2 Hz and 11.7 Hz, 1H), 4.01 (d, J=11.7 Hz, 1H), 3.87 (s, 3H), 3.69 and 3.60 (2d, J=11.4 Hz, 2H).

reactant | AD-mix-α | 21 g, 7 equivalents | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 13.8 mmol, 1.31 g | CS(=O)(=O)N | CH5NO2S
reactant | methyl 3-methylene-2,3-dihydro-1-benzoxepin-7-carboxylate | 13.8 mmol | C=C1COC2=C(C=C1)C=C(C=C2)C(=O)OC | C13H12O3
reactant | sodium disulfite | 2.6 g | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
reactant | tert-butyl alcohol water | C(C)(C)(C)O.O
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 3-hydroxy-3-(hydroxymethyl)-2,3-dihydro-1-benzoxepin-7-carboxylate | 3.2 g, 100% | OC1(COC2=C(C=C1)C=C(C=C2)C(=O)OC)CO | C13H14O5
